US06946489B2
b) 2-(3-Cyanophenoxy)pentanoic acid
A solution of 9.00 g (36.5 mmol) of ethyl 2-(3-cyanophenoxy)pentanoate in 10 ml of methanol is treated with a solution of 1.29 g (54.0 mmol) of lithium hydroxide in 10 ml of water and the mixture is stirred at room temperature for 18 hours. The reaction mixture is concentrated in vacuo, extracted with ethyl acetate, and the aqueous phase is acidified and extracted with ethyl acetate. The organic phase is dried over sodium sulfate and evaporated. A colourless solid is obtained; FAB 220

reactant | ethyl 2-(3-cyanophenoxy)pentanoate | 36.5 mmol, 9.00 g | C(#N)C=1C=C(OC(C(=O)OCC)CCC)C=CC1 | C14H17NO3
reactant | lithium hydroxide | 54.0 mmol, 1.29 g | [OH-].[Li+]
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 2-(3-Cyanophenoxy)pentanoic acid | C(#N)C=1C=C(OC(C(=O)O)CCC)C=CC1 | C12H13NO3
